US08258141B2
Step 3: {(R)-1-[9-[(1R,2S,3R,4S)-4-((R)-2-Benzyloxy-propionylamino)-2,3-dihydroxy-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester
A suspension of (R)-2-benzyloxy-N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide (1 equivalent) and (3R)-(+)-3-(Boc-amino)pyrrolidine (4 equivalents) in acetonitrile is treated with a catalytic amount of sodium iodide and then heated using microwave radiation in a Personal Chemistry Emrys™ Optimizer microwave reactor at 160° C. After 1 hour, the solvent is removed in vacuo; purification by column chromatography/crystallisation affords the title compound.

reactant | (R)-2-benzyloxy-N-{(1S,2R,3S,4R)-4-[2-chloro-6-(2,2-diphenyl-ethylamino)-purin-9-yl]-2,3-dihydroxy-cyclopentyl}-propionamide | 1 equivalent | C(C1=CC=CC=C1)O[C@@H](C(=O)N[C@@H]1[C@H]([C@H]([C@@H](C1)N1C2=NC(=NC(=C2N=C1)NCC(C1=CC=CC=C1)C1=CC=CC=C1)Cl)O)O)C | C34H35ClN6O4
reactant | (3R)-(+)-3-(Boc-amino)pyrrolidine | 4 equivalents | C(=O)(OC(C)(C)C)N[C@H]1CNCC1 | C9H18N2O2
reactant | sodium iodide | [I-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
product | {(R)-1-[9-[(1R,2S,3R,4S)-4-((R)-2-Benzyloxy-propionylamino)-2,3-dihydroxy-cyclopentyl]-6-(2,2-diphenyl-ethylamino)-9H-purin-2-yl]-pyrrolidin-3-yl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CN(CC1)C1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H]([C@@H]([C@H](C1)NC([C@@H](C)OCC1=CC=CC=C1)=O)O)O)NCC(C1=CC=CC=C1)C1=CC=CC=C1)=O | C43H52N8O6
